US08580785B2
c) Preparation of 5-Hydroxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester
5-Hydroxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester (46.0 g, 169.63 mmol) is dissolved in 200 ml of concentrated (97%) sulphuric acid at 0-5° C. To this cooled solution is added drop wise fuming (100%) nitric acid (7 ml, 10.69 g, 169.63 mmol). After the addition is complete, the reaction mixture is allowed to warm to room temperature. TLC analysis (4:1 hexane:ethyl acetate) after 30 min shows reaction completion. The reaction mixture is slowly poured onto an ice/water mixture (ca. 2 l), and the crystals then filtered at the pump, thoroughly washed with water, and dried in vacuo. This affords the title compound (47.0 g, 87.6%) as pale yellow crystals.

reactant | 5-Hydroxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 169.63 mmol, 46.0 g | COC(=O)C1=CC(=C2C=CC(=NC2=C1)C(F)(F)F)O | C12H8F3NO3
reactant | nitric acid | 169.63 mmol, 7 ml, 10.69 g | [N+](=O)(O)[O-] | HNO3
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Hydroxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 47.0 g, 87.6% | COC(=O)C1=C(C(=C2C=CC(=NC2=C1)C(F)(F)F)O)[N+](=O)[O-] | C12H7F3N2O5
